US09108983B2
2-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)pyridine-4-carbonitrile
A solution composed of 2-bromo-4-pyridinecarbonitrile (5.00 g, 36.1 mmol), 4-[(tert-butyldimethylsilyl)oxy]aniline (8.06 g, 36.1 mmol), sodium tert-butylate (4.50 g, 46.9 mmol) and 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.458 g, 1.08 mmol) in toluene (50 mL) is purged with nitrogen. Tris(dibenzylideneacetone)-dipalladium(0) (0.99 g, 1.08 mmol) is then added to the reaction mixture, and then the batch is heated at 50° C. for 1.5 hours. The mixture is then allowed to cool to ambient temperature. Water is added and the reaction mixture is extracted with ethyl acetate (3×20 mL). The combined organic phases are washed with brine, and then concentrated under reduced pressure. The crude product is absorbed onto silica gel and purified by chromatography over silica gel using ethyl acetate and heptane as eluants. The product obtained is dissolved in the warm state in heptane and precipitates, with stirring, at ambient temperature, and then at 0° C. After filtration, the expected compound is obtained in the form of a solid.

reactant | 2-bromo-4-pyridinecarbonitrile | 36.1 mmol, 5.00 g | BrC1=NC=CC(=C1)C#N | C6H3BrN2
reactant | 4-[(tert-butyldimethylsilyl)oxy]aniline | 36.1 mmol, 8.06 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(N)C=C1 | C12H21NOSi
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 1.08 mmol, 0.458 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | Water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
catalyst | Tris(dibenzylideneacetone)-dipalladium(0) | 1.08 mmol, 0.99 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)pyridine-4-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC1=NC=CC(=C1)C#N | C18H23N3OSi
